US08058461B2
20e) 4-Bromo-6-tert-butyl-2-ethylindan-1-one
A solution of 116 g (0.35 mol) of 2-(2-bromo-4-tert-butylbenzyl)butanoyl chloride in 150 ml of dry dichloromethane was added dropwise to a suspension of 56.2 g (0.42 mol) of powdered AlCl3 in 500 ml of dry dichloromethane for 1.5 hours at 0° C. The resulting mixture was stirred overnight at room temperature and then poured on 500 cm3 of ice. The organic layer was separated, and the aqueous layer was extracted by 3×100 ml of dichloromethane. The combined organic extract was washed by saturated aqueous NaHCO3, dried over K2CO3, and evaporated to dryness. Fractional rectification of the residue gave 92.2 g (89%) of the title product, b.p. 142° C.-147° C./1 mm Hg. Anal. calc. for C15H19BrO: C, 61.03; H, 6.49. Found: C, 59.88; H, 6.37. 1H NMR (CDCl3): δ 7.80 (d, J=1.5 Hz, 1H, 5-H), 7.71 (d, J=1.5 Hz, 1H, 7-H), 3.22 (dd, J=17.4 Hz, J=7.6 Hz, 1H, 3-H), 2.75-2.62 (m, 2H, 3′-H and 2-H), 1.98 (m, 1H, CHH′Me), 1.55 (m, 1H, CHH′Me), 1.34 (s, 9H, tBu), 1.03 (t, J=1.4 Hz, CH2Me). 13C{1H} NMR (CDCl3): δ 208.4, 153.3, 150.7, 138.7, 135.1, 121.8, 119.3, 49.2, 35.0, 32.9, 31.2, 24.4, 11.5.

reactant | 2-(2-bromo-4-tert-butylbenzyl)butanoyl chloride | 0.35 mol, 116 g | BrC1=C(CC(C(=O)Cl)CC)C=CC(=C1)C(C)(C)C | C15H20BrClO
reactant | AlCl3 | 0.42 mol, 56.2 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 4-Bromo-6-tert-butyl-2-ethylindan-1-one | 92.2 g, 89% | BrC1=C2CC(C(C2=CC(=C1)C(C)(C)C)=O)CC | C15H19BrO
